US07776875B2
To dry tetrahydrofuran (15 mL) was added 1M THF solution of LiHMDS (24.7 mmol, 24.7 mL) under Ar protection at room temperature, followed by the addition of 5,6-Difluoro-2-methyl-benzaldehyde (3.86 g, 24.7 mmol). After the mixture was stirred at room temperature for 1 h, trimethylsilyl chloride (3.1 mL, 24.7 mmol) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (4.47 mL, 32 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (2.35 mL, 32 mmol) in diethyl ether (30 mL). The cooling bath was removed, and the mixture was stirred at room temperature for 4 h. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give crude 1-(2,3-difluoro-6-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | LiHMDS | 24.7 mmol, 24.7 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5,6-Difluoro-2-methyl-benzaldehyde | 24.7 mmol, 3.86 g | FC=1C=CC(=C(C=O)C1F)C | C8H6F2O
reactant | trimethylsilyl chloride | 24.7 mmol, 3.1 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 32 mmol, 4.47 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 32 mmol, 2.35 mL | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-(2,3-difluoro-6-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | FC1=C(C(=CC=C1F)C)C=NC(=C)O[Si](C)(C)C | C13H17F2NOSi
